US06020329
(b) Sodium (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-(Z)-pent-2-enamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
4-Methoxybenzyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-(Z)-pent-2-enamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (80mg) in dichloromethane (2ml) was added dropwise to a mixture of aluminium chloride (47mg) and anisole (1.03ml) in dichloromethane (2ml) at -50° C. under argon. The mixture was stirred for 15 minutes at -40° C. and 0.5M trisodium citrate (3.42ml) added, stirred at room temperature for 15 minutes then diluted with dichloromethane (10ml) and water (10ml). The aqueous layer was collected, washed with dichloromethane and chromatographed on HP20SS eluting with 0, 1, 2, 5 and 10% acetone in water. Fractions containing the product, h.p.l.c analysis, were combined, concentrated and freeze-dried to give the title compound (22mg); vmax (KBr) 3407, 1757, 1609, 1527, 1375, 1338 and 1041 cm-1 ; δH (D2O, 250MHz) 1.03 (3H,t,J 7.5Hz), 1.65-2.30 (6H,m), 3.32 and 3.51 (2H, ABq, J 7.7Hz), 3.70-3.95 (2H,m), 4.65-4.80 (1H,m), 5.20 (1H,d,J 4.7Hz), 5.74 (1H,d,J 4.7Hz), 6.33 (1H,t,J 8Hz) and 6.47 (1H,s). [Mass spectrum +ve ion (thioglycerol) MH+ (473)].

reactant | 4-Methoxybenzyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-(Z)-pent-2-enamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 80mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=C/CC | C27H30N4O6S2
reactant | aluminium chloride | 47mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 1.03ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trisodium citrate | 0.5M, 3.42ml | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
solvent | dichloromethane | 2ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
solvent | water | 10ml | O | H2O
product | Sodium (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-(Z)-pent-2-enamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 22mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)[O-])C1=O)=C/CC.[Na+] | InChI=1S/C19H22N4O5S2.Na/c1-2-4-9(11-8-30-19(20)21-11)15(24)22-13-16(25)23-14(18(26)27)10(7-29-17(13)23)12-5-3-6-28-12;/h4,8,12-13,17H,2-3,5-7H2,1H3,(H2,20,21)(H,22,24)(H,26,27);/q;+1/p-1/b9-4-;/t12-,13+,17+;/m0./s1
